US04766212
In a similar way, substituting trans-10-fluoro-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine for the trans-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine above and using hydrogen chloride instead of maleic acid, results in the formation of trans-10-fluoro-3,4,4a,5,6,11b-hexahydro-4-methyl-2H-[1]benzoxepino[5,4-b]-1,4-oxazine hydrochloride having a mp. of 244°-245° C.

reactant | trans-10-fluoro-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine | FC=1C=CC2=C(C1)[C@H]1OCCN[C@@H]1CCO2 | C12H14FNO2
reactant | trans-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine | O1[C@H]2[C@H](NCC1)CCOC1=C2C=CC=C1 | C12H15NO2
reactant | hydrogen chloride | Cl | ClH
product | trans-10-fluoro-3,4,4a,5,6,11b-hexahydro-4-methyl-2H-[1]benzoxepino[5,4-b]-1,4-oxazine hydrochloride | Cl.FC=1C=CC2=C(C1)[C@H]1OCCN([C@@H]1CCO2)C | InChI=1S/C13H16FNO2.ClH/c1-15-5-7-17-13-10-8-9(14)2-3-12(10)16-6-4-11(13)15;/h2-3,8,11,13H,4-7H2,1H3;1H/t11-,13-;/m1./s1
